US08012956B2
To a solution of methyl 4-cyano-2-fluoro-5-nitrobenzoate (785 mg, 3.5 mmol) in acetic acid (15 mL) was added iron powder (1.17 g, 21.0 mmol). The mixture was stirred vigorously at room temperature for 2 h. Insoluble solids were then removed by filtration through celite. Water was added to the filtrate and the aqueous mixture was extracted with ethyl acetate. The organic extract was washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography (30% ethyl acetate in hexanes) to provide methyl 5-amino-4-cyano-2-fluorobenzoate (463 mg, 2.38 mmol, 68% yield). 1H NMR (400 MHz, CDCl3): 7.30 (d, 1H), 7.19 (d, 1H), 4.41 (br s, 2H), 3.94 (s, 3H); MS (EI) for C9H7FN2O2: 193 (M−H).

reactant | methyl 4-cyano-2-fluoro-5-nitrobenzoate | 3.5 mmol, 785 mg | C(#N)C1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])F | C9H5FN2O4
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 21.0 mmol, 1.17 g | [Fe] | Fe
product | methyl 5-amino-4-cyano-2-fluorobenzoate | 2.38 mmol, 463 mg, 68% yield | NC=1C(=CC(=C(C(=O)OC)C1)F)C#N | C9H7FN2O2
